US04284631
A mixture of 2-hydroxyimino-3-oxobutyrate (syn isomer, 47.1 g.), benzylbromide (61.6 g.), potassium carbonate (62.2 g.), N,N-dimethylformamide (70 ml.) and ethyl acetate (70 ml.) was treated in a similar manner to that of Example A-(1) to give ethyl 2-benzyloxyimino-3-oxobutyrate (syn isomer, 70.0 g.).

reactant | 2-hydroxyimino-3-oxobutyrate | 47.1 g | ON=C(C(=O)[O-])C(C)=O
reactant | benzylbromide | 61.6 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 62.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
reactant | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-benzyloxyimino-3-oxobutyrate | 70.0 g | C(C1=CC=CC=C1)ON=C(C(=O)OCC)C(C)=O | C13H15NO4
